US08071592B2
(c) 8-Ethyl-7-fluoro-2-(2-propen-1-yloxy)-1,5-naphthyridine
8-Ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one (0.810 g, 4.22 mmol) was suspended in dry DMF (12.5 mL) under argon at 0° C., this was then treated with sodium hydride (0.371 g of a 60% w:w dispersion in oil, 2.2 eq.) added in portions. The suspension was allowed to warm to rt; after stirring for 30 mins at rt, the mixture was treated with allyl iodide (0.858 ml, 2.2 eq). It was then stirred for a further 30 mins before addition of water (10 ml). The mixture was then extracted with 10% MeOH/DCM (3×20 ml). The organic extracts were combined, dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to give a brown oil. This residue was then purified by column chromatography on silica gel (50 g) eluting with 0-100% EtOAc in hexane gradient to give title compound as a brown oil (0.9588 g, 98%).

reactant | 8-Ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one | 4.22 mmol, 0.810 g | C(C)C=1C(=CN=C2C=CC(NC12)=O)F | C10H9FN2O
reactant | sodium hydride | [H-].[Na+]
reactant | allyl iodide | 0.858 ml, 2.2 eq | C(C=C)I | C3H5I
reactant | water | 10 ml | O | H2O
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
product | 8-Ethyl-7-fluoro-2-(2-propen-1-yloxy)-1,5-naphthyridine | 0.9588 g, 98% | C(C)C=1C(=CN=C2C=CC(=NC12)OCC=C)F | C13H13FN2O
